US05310666
Racemic 1-(6 -hydroxyheptyl)-3,7 -dimethylxanthine (melting point: 76°-77° C.) was prepared for comparison by reduction of 1-(6-oxoheptyl)-3,7-dimethylxanthine with NaBH4 analogously to d).

reactant | 1-(6-oxoheptyl)-3,7-dimethylxanthine | O=C(CCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C14H20N4O3
reactant | NaBH4 | [BH4-].[Na+]
product | Racemic 1-(6 -hydroxyheptyl)-3,7 -dimethylxanthine | OC(CCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C14H22N4O3
